### PR TITLE
Improve floating point support

### PR DESCRIPTION
**Pull request by Janno**
Gaps identified by the LLM that (hopefully) are addressed by this PR (and SkyLabsAI/auto#297)

- support checking rejects float casts and does not validate float operators;
- static binary-operator typing lacks usual arithmetic conversions involving floats;
- unary logical-not on floats is not supported dynamically or in automation;
- raw-byte/simple-predicate encodings for floats are missing;
- useful bit-level lemmas are missing;
- `auto` lacks ergonomic `TypeCompat`, `PrimVal`, `DefaultValue`, `BundledRep`, `to_bool`, cast-classification, and hint support for floats;
- BRiCk-level and `auto`-level float regression tests from the experiment are missing.

### CODE REVIEW

File: rocq-skylabs-brick/tests/float_support.v [hunk 1]
```diff
@@ -0,0 +1,296 @@
...
+  check.expr one_float128 = check.OK.
+Proof. repeat split; reflexivity. Qed.
+
+Example support_accepts_float_casts :
+  check.expr (Ecast (Cfloat Tdouble) one_float) = check.OK /\
+  check.expr (Ecast (Cfloat Tfloat128) one_double) = check.OK /\
+  check.expr (Ecast (Cint2float Tfloat16) (Eint 0 Tint)) = check.OK /\
+  check.expr (Ecast (Cfloat2int Tint) one_float128) = check.OK /\
+  check.expr (Ecast Cfloat2bool one_float) = check.OK.
+Proof. repeat split; reflexivity. Qed.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/tests/float_support.v]: In practice, I think that this testing strategy is somewhat fragile. These tests are probably okay, but for testing syntax, I much prefer writing actual C++ code using `cpp.prog ...` and then writing functions on this. This ensures that we capture the way that clang interprets syntax.

File: rocq-skylabs-brick/tests/float_support.v [hunk 2]
```diff
@@ -0,0 +1,296 @@
...
+  is_true (Vfloat float_type.Ffloat f32_nan) = Some true.
+Proof. repeat split; vm_compute; reflexivity. Qed.
+
+Example float16_and_float128_bool_cases :
+  is_true (Vfloat float_type.Ffloat16 f16_neg_zero) = Some false /\
+  is_true (Vfloat float_type.Ffloat16 f16_one) = Some true /\
+  is_true (Vfloat float_type.Ffloat128 f128_neg_zero) = Some false /\
+  is_true (Vfloat float_type.Ffloat128 f128_inf) = Some true /\
+  is_true (Vfloat float_type.Ffloat128 f128_nan) = Some true.
+Proof. repeat split; vm_compute; reflexivity. Qed.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/tests/float_support.v]: Do you think it would make sense to put some of these tests closer to the actual code with `Succeed ...`? This file seems to contain a lot of tests for features that exist in different parts of the code. Sometimes this can make incremental updates difficult.

File: rocq-skylabs-brick/tests/float_support.v [hunk 3]
```diff
@@ -0,0 +1,296 @@
...
+Example raw_float_intro_examples {σ : genv} :
+  raw_bytes_of_val σ Tfloat16 (Vfloat float_type.Ffloat16 f16_one)
+    (float_raw_bytes σ float_type.Ffloat16 f16_one) /\
+  raw_bytes_of_val σ Tfloat (Vfloat float_type.Ffloat f32_one)
+    (float_raw_bytes σ float_type.Ffloat f32_one) /\
+  raw_bytes_of_val σ Tdouble (Vfloat float_type.Fdouble f64_one)
+    (float_raw_bytes σ float_type.Fdouble f64_one) /\
+  raw_bytes_of_val σ Tfloat128 (Vfloat float_type.Ffloat128 f128_one)
+    (float_raw_bytes σ float_type.Ffloat128 f128_one).
+Proof. repeat split; apply raw_bytes_of_val_float_intro. Qed.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/tests/float_support.v]: Can we propose that tests such as these are split up into separate `Example`s?

File: rocq-skylabs-brick/theories/lang/cpp/syntax/supported.v [hunk 4]
```diff
@@ -21,6 +23,85 @@ Section with_monad.
...
+        FAIL "unsupported pointer/floating operator"
+      else
+        match op with
+        | Badd | Bsub | Bmul | Bdiv
+        | Beq | Bneq | Blt | Ble | Bgt | Bge => OK
+        | Bmod | Band | Bor | Bxor | Bshl | Bshr | Bcmp
+        | Bdotp | Bdotip => FAIL "unsupported floating binary operator"
+        | Bunsupported _ => OK
+        end
+    else OK.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/supported.v:101]: This looks like it is replicating some logic. Would it be meaningful to call `convert_type_op` here? If not, could we refactor that function so that it does make sense?

File: rocq-skylabs-cpp2v/src/PrintExpr.cpp [hunk 5]
```diff
@@ -963,23 +1003,43 @@ class PrintExpr : public ConstStmtVisitor<PrintExpr, void> {
...
+                break;
+            case BuiltinType::Float128:
+                if (lit->getRawSemantics() == llvm::APFloatBase::S_IEEEquad)
+                    ft = "float_type.Ffloat128";
+                break;
+            case BuiltinType::LongDouble:
+                /* The port's [Flongdouble] carrier is not the experiment's
+                   binary128 model and does not match the usual Clang x87 or
+                   double-double object encodings, so reject literals here. */
+                break;
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-cpp2v/src/PrintExpr.cpp:1029]: We should be consistent about this. It seems like here we say that `long double` is not supported, but in the Rocq code we seem to say that `Flongdouble` is supported (the `supported` function is constant `true`).

I propose that we either:
1. make `long double` unsupported everywhere, or
2. introduce information into `abi.t` and then use it correctly

**Review by gmalecha-at-skylabs — CHANGES_REQUESTED** [review]

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v [hunk 6]
```diff
@@ -522,6 +567,15 @@ Module float_value.
...
     end.
 
+  Definition is_true (t : t) (v : car t) : bool :=
+    negb (is_zero v).
+
+  Lemma is_zero_zero (t : t) : is_zero (zero t) = true.
+  Proof. by destruct t. Qed.
+
+  Lemma is_true_zero (t : t) : is_true t (zero t) = false.
+  Proof. by destruct t. Qed.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v]:
```suggestion
  Definition is_true {t : t} (v : car t) : bool :=
    negb (is_zero v).

  Lemma is_zero_zero (t : t) : is_zero (zero t) = true.
  Proof. by destruct t. Qed.

  Lemma is_true_zero (t : t) : is_true (zero t) = false.
  Proof. by destruct t. Qed.
```

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v [hunk 7]
```diff
@@ -670,6 +724,78 @@ Module float_value.
...
+
+  Lemma of_to_bits_Fdouble (f : car Fdouble) :
+    of_bits Fdouble (to_bits Fdouble f) = f.
+  Proof. apply of_to_bits. Qed.
+
+  Lemma of_to_bits_Ffloat128 (f : car Ffloat128) :
+    of_bits Ffloat128 (to_bits Ffloat128 f) = f.
+  Proof. apply of_to_bits. Qed.
+
+  Lemma to_bits_inj ft : Inj (=) (=) (to_bits ft).
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v]:
```suggestion
  #[global] Instance to_bits_inj ft : Inj (=) (=) (to_bits ft).
```

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v [hunk 8]
```diff
@@ -670,6 +724,78 @@ Module float_value.
...
+  Proof. apply of_to_bits. Qed.
+
+  Lemma of_to_bits_Fdouble (f : car Fdouble) :
+    of_bits Fdouble (to_bits Fdouble f) = f.
+  Proof. apply of_to_bits. Qed.
+
+  Lemma of_to_bits_Ffloat128 (f : car Ffloat128) :
+    of_bits Ffloat128 (to_bits Ffloat128 f) = f.
+  Proof. apply of_to_bits. Qed.
+
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v]: Seem unnecessary?
```suggestion
```

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v [hunk 9]
```diff
@@ -670,6 +724,78 @@ Module float_value.
...
+  Proof. intros Hz. apply to_of_bits. exact Hz. Qed.
+
+  Lemma to_of_bits_Fdouble z :
+    (0 <= z < 2 ^ 64)%Z -> to_bits Fdouble (of_bits Fdouble z) = z.
+  Proof. intros Hz. apply to_of_bits. exact Hz. Qed.
+
+  Lemma to_of_bits_Ffloat128 z :
+    (0 <= z < 2 ^ 128)%Z -> to_bits Ffloat128 (of_bits Ffloat128 z) = z.
+  Proof. intros Hz. apply to_of_bits. exact Hz. Qed.
+
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v:768]: Questionable?

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v [hunk 10]
```diff
@@ -465,6 +487,29 @@ Module float_type.
...
+  Lemma bit_width_Ffloat16 : bit_width Ffloat16 = 16%Z.
+  Proof. reflexivity. Qed.
+  Lemma bit_width_Ffloat : bit_width Ffloat = 32%Z.
+  Proof. reflexivity. Qed.
+  Lemma bit_width_Fdouble : bit_width Fdouble = 64%Z.
+  Proof. reflexivity. Qed.
+  Lemma bit_width_Flongdouble : bit_width Flongdouble = 79%Z.
+  Proof. reflexivity. Qed.
+  Lemma bit_width_Ffloat128 : bit_width Ffloat128 = 128%Z.
+  Proof. reflexivity. Qed.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v]: Useful? These might be TBH, but then I might write `bit_width` as a match so `simpl` does the job?

```suggestion
```

**Review by pgiarrusso-sl — COMMENTED** [review]
Some comments. Specs and proofs seem a bit dodgy.

File: rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v (hunk 9 above)
Comment (Janno) [reply rocq-skylabs-brick/theories/lang/cpp/syntax/preliminary.v:768]: In what sense? Is the question if these are useful?

File: rocq-skylabs-cpp2v/src/PrintExpr.cpp (hunk 5 above)
Comment (Janno) [reply rocq-skylabs-cpp2v/src/PrintExpr.cpp:1029]: > 1. make long double unsupported everywhere

Seems like the right choice for this PR here.

File: rocq-skylabs-brick/theories/lang/cpp/syntax/supported.v (hunk 4 above)
Comment (Janno) [reply rocq-skylabs-brick/theories/lang/cpp/syntax/supported.v:101]: `convert_type_op` needs a TU. The LLM is proposing to use `convert_type_float_op` instead to replace the inner `match`. Would that help?
```
  Definition check_float_binop (op : BinOp) : M :=
    match convert_type_float_op op Tfloat with
    | Some _ => OK
    | None => FAIL "unsupported floating binary operator"
    end.

  Definition check_binop (op : BinOp) (lhsT rhsT resT : type) : M :=
    (match op with
     | Bunsupported msg => FAIL msg
     | _ => OK
     end) <+>
    if is_float_type lhsT || is_float_type rhsT || is_float_type resT then
      check_float_type_if_present lhsT <+>
      check_float_type_if_present rhsT <+>
      check_float_type_if_present resT <+>
      if is_pointer lhsT || is_pointer rhsT then
        FAIL "unsupported pointer/floating operator"
      else
        match op with
        | Bunsupported _ => OK
        | _ => check_float_binop op
        end
    else OK.
```

File: rocq-skylabs-cpp2v/src/PrintExpr.cpp (hunk 5 above)
Comment (Janno) [reply rocq-skylabs-cpp2v/src/PrintExpr.cpp:1029]: Hm, I realize that I don't really know what this means. I asked the agent to mark unsupported items unsupported consistently across the entire stack and it changed supported.v to check for the exact float type (which main apparently does not) and that now breaks some tests that rely on `long double` being considered supported. Is that the right way to go? Do I just fix the tests?

Comment (gmalecha-at-skylabs) [reply rocq-skylabs-cpp2v/src/PrintExpr.cpp:1029]: If we're deciding to not support `long double`, then updating tests that state that `long double` is supported seems like the right thing to do.

File: rocq-skylabs-brick/theories/lang/cpp/syntax/supported.v (hunk 4 above)
Comment (gmalecha-at-skylabs) [reply rocq-skylabs-brick/theories/lang/cpp/syntax/supported.v:101]: A better solution is probably to thread the actual TU through the `supported` check and then pass it here. Then this becomes "supported in a context".

File: rocq-skylabs-brick/theories/lang/cpp/logic/raw.v [hunk 11]
```diff
@@ -65,6 +65,49 @@ Axiom raw_byte_of_int_eq : ∀ {σ : genv} sz x rs,
...
+(** Reverse raw-byte reinterpretation is axiomatized at this abstraction level:
+    [raw_byte] deliberately does not expose an injective byte-to-[N] view, so
+    the existing integer raw-byte characterization is not enough to reconstruct
+    the byte list needed by [float_raw_bytes].  The compatibility premise
+    excludes the current [Flongdouble] model, whose Flocq bit encoding does not
+    occupy all 16 object bytes. *)
+Axiom raw_bytes_of_val_unsigned_bits_to_float : forall {σ : genv} sz ft z rs,
+  float_bits_compatible sz ft ->
+  raw_bytes_of_val σ (Tnum sz Unsigned) (Vint z) rs ->
+  raw_bytes_of_val σ (Tfloat_ ft) (Vfloat ft (float_value.of_bits ft z)) rs.
```
Comment (gmalecha-at-skylabs) [inline rocq-skylabs-brick/theories/lang/cpp/logic/raw.v:109]: This axiom seems quite awkward, and I'm wondering what it is really achieving.

File: rocq-skylabs-brick/theories/lang/cpp/syntax/supported.v (hunk 4 above)
Comment (gmalecha-at-skylabs) [reply rocq-skylabs-brick/theories/lang/cpp/syntax/supported.v:101]: After reviewing it seems like this is putting the logic in the wrong place. I have clarified this in the comments of the file.

**Review by gmalecha-at-skylabs — APPROVED** [review]
